US04820705
1. 4-(2-Acetamido-indan-5-yl)-4-oxobutyric acid
137.3 g (1.03 mol) of anhydrous aluminium chloride and 34.2 g (0.34 mol) of succinic anhydride are suspended in 500 ml of ethylene chloride and 54.5 g (0.311 mol) of 2-acetamido-indane are introduced at room temperature, with vigorous stirring. The mixture is stirred at room temperature for a further 2 hours, ice and 150 ml of concentrated hydrochloric acid are added, and the ethylene chloride is removed by steam distillation. On cooling, 4-(2-acetamido-indan-5-yl)-4-oxobutyric acid crystallises out from the aqueous solution. The acid is purified by being dissolved in 2N sodium hydroxide solution, the solution is filtered and the acid is reprecipitated by means of hydrochloric acid.

reactant | aluminium chloride | 1.03 mol, 137.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | succinic anhydride | 0.34 mol, 34.2 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | 2-acetamido-indane | 0.311 mol, 54.5 g | C(C)(=O)NC1CC2=CC=CC=C2C1 | C11H13NO
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | ethylene chloride | 500 ml | C(CCl)Cl | C2H4Cl2
product | 4-(2-Acetamido-indan-5-yl)-4-oxobutyric acid | C(C)(=O)NC1CC2=CC=C(C=C2C1)C(CCC(=O)O)=O | C15H17NO4
